US09263682B2
Add 80 ml of toluene, 20 ml of ethanol, and 40 g of 2M sodium carbonate aqueous solution to 6.50 g of 2,7-dibromocarbazole, 7.32 g of phenyl boronic acid, 0.734 g of tetrakis triphenyl phosphine palladium; reflux the mixture for three hours while heating in nitrogen atmosphere followed by cooling down to room temperature; filter the mixture to remove insoluble matters; distill away the solvent to obtain 4.15 g of pale bark powder of 2,7-diphenyl carbazole; mix 4.01 g of the thus obtained 2,7-diphenyl carbazole, 4.37 g of 4-(8-hydroxyoctyloxy)iodine benzene, 3.45 g of potassium carbonate, 0.5 g of copper powder, and 20 ml of nitrobenzene; reflux the mixture for seven hours while heating in nitrogen atmosphere followed by cooling down to room temperature; filter the mixture to remove insoluble matters; distill away the solvent; next, refine the resultant with silica gel column chromatography using a liquid mixture of ethyl acetate and hexane as an eluting solution to obtain 2.0 g of a pale bark oily matter of 2.7-diphenyl-N-[4-(8-hydroxyoctyloxyphenyl)]carbazole; and then, tosylate, thioacetylate, and hydrolyze the thus obtained 2.7-diphenyl-N-[4-(8-hydroxyoctyloxyphenyl)]carbazole in the same manner as in Synthesis of Carbazole Derivative 2 to obtain 2,7-diphenyl-N-[4-(8-mercaptooctyloxyphenyl)]carbazole (hereinafter referred to as carbazole derivative 5) having a colorless needle-like crystal represented by the chemical structure 11.

reactant | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium carbonate | 2M, 40 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2,7-dibromocarbazole | 6.50 g | BrC1=CC=2NC3=CC(=CC=C3C2C=C1)Br | C12H7Br2N
reactant | phenyl boronic acid | 7.32 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2,7-diphenyl carbazole | C1(=CC=CC=C1)C1=CC=2NC3=CC(=CC=C3C2C=C1)C1=CC=CC=C1 | C24H17N
